Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([O:6][H:18])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][H:18])([H:7])([H:8])[H:9].[C:2]1([H:10])([H:11])[C:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([H:16])[H:17],115.395612939928
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:5]#[N:6])([H:13])[H:14])([H:7])([H:8])[H:9].[N:2][C:3]([H:10])([H:11])[H:12],124.909803526928
[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([C:3]([C+:4]=[N:5][H:9])([H:12])[H:13])([H:11])[C-:6]=[C:7]1[H:14],110.718802798628
[N:1]1([H:7])[C:2](=[O:3])[C:4]([H:9])([H:10])[C:5][C:6]1([H:8])[H:11]>>[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8],34.5445032224078
[C+:1]([N:2]([C:3]([O:4][H:7])=[C:5]([O-:6])[H:11])[H:10])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],9.591582956864592
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],56.042446708602895
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](/[N:3]=[N:4]/[H:9])=[O:5])[H:10])[H:8],100.34891541728099
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[O+:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11],71.7404421487157
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]1[C@@:3]2([H:9])[C:4]([H:10])([H:11])[N:5]2[C@:6]1([O:7][H:8])[H:12],76.4429216874592
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:17])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C@:4]([C:5]([H:14])([H:15])[H:16])([H:13])[C:6]1=[O:7],87.3699846402779
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C:1]1([H:8])=[C-:2][C@:3]12[C:4]([H:9])=[C:5]([H:10])[C:6]([H:11])=[O+:7]2,49.863033218729896
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[N:1]([c:2]1[n:3]([H:10])[o:4][c:5](=[O:6])[n:7]1)([H:8])[H:9],71.875682677186
[C:1]([O+:2]=[C:3]([C@@:4]1([H:12])[C-:5]([H:13])[C:6]([H:15])([H:16])[C:7]1([H:14])[H:17])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],53.17074917384719
[C:1]([C:2](=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[C:3]([H:11])([H:12])([H:13])[H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])[H:10])([H:7])([H:8])[H:9],79.19781592662045
[n:1]1([H:6])[c:2]([H:7])[c:3]([H:8])[n:4][n:5]1>>[N:1](=[N:5]/[N:4]1[C:2]([H:7])=[C:3]1[H:8])\[H:6],99.46080366950859
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1](/[C:2](=[C:3](\[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])[H:9])[H:7])[H:8],45.73800266167361
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[O:1](/[C:2](=[C:3]([C:4](=[C:5](/[O:6][H:10])[H:12])\[H:11])/[H:9])[H:8])[H:7],26.328906355593706
[C:1]1([H:7])([H:9])[C@:2]([C:3](=[O:4])[H:11])([H:10])[C:5]1=[C:6]([H:8])[H:12]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],81.22437223486357
[C:1]([C:2]([C:3]([H:12])([H:13])[H:17])([C:7]1=[C:4]([O:5][H:14])[C:6]1([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],100.56587889354722
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]([C:2]1=[O+:3][C:4]([H:9])([H:10])[C@@:5]12[C-:6]([H:11])[N:7]2[H:13])([H:8])[H:12],109.85324016883499
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:10].[C:6]([O:7][H:15])([H:9])([H:13])[H:14].[O:3]=[C:4]=[O:5]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],69.39409930382786
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2][C:4](/[C:5](=[C:6](\[C:7]([O:3][H:11])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],100.557138644752
[C:5](=[O:6])([H:11])[H:12].[O:1]=[C:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],50.77742935770147
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2]1\[C:5]2([C:4]([H:9])([H:10])[O:3][C:6]2([H:11])[H:12])[N:7]1[H:13])\[H:8],89.95096267211441
